US07678798B2
5-[(4-{(3S)-4-[(1R,2R)-2-Ethoxy-5-(trifluoromethyl)-2,3-dihydro-1H-inden-1-yl]-3-methylpiperazin-1-yl}-4-methylpiperidin-1-yl)carbonyl]-4,6-dimethylpyrimidine dihydrochloride
t-Butyl 4-{(3S)-4-[2-ethoxy-5-(trifluoromethyl)-2,3-dihydro-1H-inden-1-yl]-3-methylpiperazin-1-yl}-4-methylpiperidine-1-carboxylate (48.4 g, 0.0921 mol) was treated with a 4.0 M solution of hydrogen chloride in 1,4-dioxane (230 mL) at room temperature for 1 h. The reaction mixture was concentrated to dryness and the residue was further dried under high vacuum. The formed amine hydrochloride was mixed with 4,6-dimethyl-pyrimidine-5-carboxylic acid (16.80 g, 0.110 mol) in methylene chloride (100 mL), and then 1-hydroxybenzotriazole (16.80 g, 0.1243 mol), N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (25.00 g, 0.1304 mol) and triethylamine (65.0 mL, 0.466 mol) were added. The resulting reaction mixture was stirred at room temperature overnight before it was diluted with methylene chloride and washed with aqueous sodium hydroxide (1 M) and brine. The organic layer was collected and dried over magnesium sulfate. After removal of the solvent, the residue was dissolved in methylene chloride (50 mL) and the solution was passed through a silica plug with ethyl acetate containing 1% triethylamine. The solution was concentrated and the residue was dissolved in 900mL of isopropyl acetate. To the above solution, 185 mL of 1.0 N HCl in isopropyl acetate was slowly added. The mixture slowly turned cloudy, and was stirred overnight. The formed white solid was collected, washed with 40 mL of isopropyl acetate. The cake was air-dried to give 47.0 g (80.7%) of product. MS (EI) 560.3 (M+1).

reactant | t-Butyl 4-{(3S)-4-[2-ethoxy-5-(trifluoromethyl)-2,3-dihydro-1H-inden-1-yl]-3-methylpiperazin-1-yl}-4-methylpiperidine-1-carboxylate | 0.0921 mol, 48.4 g | C(C)OC1C(C2=CC=C(C=C2C1)C(F)(F)F)N1[C@H](CN(CC1)C1(CCN(CC1)C(=O)OC(C)(C)C)C)C | C28H42F3N3O3
reactant | hydrogen chloride | Cl | ClH
reactant | 4,6-dimethyl-pyrimidine-5-carboxylic acid | 0.110 mol, 16.80 g | CC1=NC=NC(=C1C(=O)O)C | C7H8N2O2
reactant | 1-hydroxybenzotriazole | 0.1243 mol, 16.80 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.1304 mol, 25.00 g | Cl.CN(CCCN=C=NCC)C
reactant | triethylamine | 0.466 mol, 65.0 mL | C(C)N(CC)CC | C6H15N
solvent | 1,4-dioxane | 230 mL | O1CCOCC1 | C4H8O2
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 5-[(4-{(3S)-4-[(1R,2R)-2-Ethoxy-5-(trifluoromethyl)-2,3-dihydro-1H-inden-1-yl]-3-methylpiperazin-1-yl}-4-methylpiperidin-1-yl)carbonyl]-4,6-dimethylpyrimidine dihydrochloride | 47.0 g, 80.7% | Cl.Cl.C(C)O[C@H]1[C@@H](C2=CC=C(C=C2C1)C(F)(F)F)N1[C@H](CN(CC1)C1(CCN(CC1)C(=O)C=1C(=NC=NC1C)C)C)C | InChI=1S/C30H40F3N5O2.2ClH/c1-6-40-25-16-22-15-23(30(31,32)33)7-8-24(22)27(25)38-14-13-37(17-19(38)2)29(5)9-11-36(12-10-29)28(39)26-20(3)34-18-35-21(26)4;;/h7-8,15,18-19,25,27H,6,9-14,16-17H2,1-5H3;2*1H/t19-,25+,27+;;/m0../s1
